US05151417
p-Methoxybenzyl 7β-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(Z)-(pyrimidin-5-yl)vinyl]-3-cephem-4-carboxylate
p-Methoxybenzyl 7β-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(triphenylphosphoranylidene)methyl]-3-cephem-4-carboxylate (4 g) and 5-pyrimidinaldehyde (0.8 g) were stirred for 12 hours in dichloromethane (40 ml). The reaction mixture was concentrated to about 15 ml and then subjected to chromatography on a silica gel column. Relevant fractions were combined and concentrated, whereby an oily matter was obtained. It was added dropwise to a mixed solvent of isopropyl ether (20 ml) and n-hexane (80 ml). The resulting precipitate was collected by filtration, whereby the title compound (1.5 g) was obtained.

reactant | p-Methoxybenzyl 7β-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(triphenylphosphoranylidene)methyl]-3-cephem-4-carboxylate | 4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C77H62N5O6PS2
reactant | 5-pyrimidinaldehyde | 0.8 g | N1=CN=CC(=C1)C=O | C5H4N2O
reactant | isopropyl ether | 20 ml | C(C)(C)OC(C)C | C6H14O
reactant | n-hexane | 80 ml | CCCCCC | C6H14
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | p-Methoxybenzyl 7β-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(Z)-(pyrimidin-5-yl)vinyl]-3-cephem-4-carboxylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)\C=C/C=2C=NC=NC2)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C64H51N7O6S2
